2128-11-28 07:21:00 Physician Resident Progress Note
Chief Complaint: headache post coital
   24 Hour Events:
 BLOOD CULTURED - At [**2128-11-28**] 04:00 AM
   x2
 URINE CULTURE - At [**2128-11-28**] 04:00 AM
 FEVER - 101.8
F - [**2128-11-27**] 06:00 PM
   For past 24 has been in irreg narrow complex tachy looking like flutter
   w/ variable block. Stays in the 100-110's with random increase tachy to
   160-80s for ~ 30s and comes right back down. Thought related to light
   sedation/movement/agitation. maintained high nl mag, electrolytes
   repleted, tarted on tf, changed keppra to PO. was on neo for low bp's
   but weened off later in day, now consistantly between 140-160. Due for
   CTa/p in am.
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2128-11-28**] 05:46 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2128-11-27**] 10:13 AM
   Famotidine (Pepcid) - [**2128-11-27**] 07:56 PM
   Fentanyl - [**2128-11-28**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Cough
   Psychiatric / Sleep: Delirious, Daytime somnolence
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-11-28**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.6
   HR: 72 (68 - 168) bpm
   BP: 162/73(94) {128/57(79) - 183/88(123)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.5 kg (admission): 120 kg
    CVP: 11 (3 - 15)mmHg
   ICP: 16 (15 - 18) mmHg
   Total In:
                                                                  5,002 mL
                                                                  2,175 mL
   PO:
   TF:
                                                                    234 mL
                                                                    263 mL
   IVF:
                                                                  4,109 mL
                                                                  1,632 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                    853 mL
   Urine:
                                                                  2,370 mL
                                                                    740 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
                                                                    535 mL
                                                                    113 mL
   Balance:
                                                                  1,947 mL
                                                                  1,322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 605 (605 - 605) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.47/35/162/25/2
   Ve: 10.5 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   209 K/uL
   12.2 g/dL
   152 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   10 mg/dL
   114 mEq/L
   146 mEq/L
   34.0 %
   17.3 K/uL
        [image002.jpg]
                             [**2128-11-26**]  07:36 PM
                             [**2128-11-27**]  01:52 AM
                             [**2128-11-27**]  02:09 AM
                             [**2128-11-27**]  08:48 AM
                             [**2128-11-27**]  08:59 AM
                             [**2128-11-27**]  06:08 PM
                             [**2128-11-27**]  06:19 PM
                             [**2128-11-27**]  09:54 PM
                             [**2128-11-28**]  01:44 AM
                             [**2128-11-28**]  01:50 AM
   WBC
   15.1
   17.3
   Hct
   36.9
   34.0
   Plt
   231
   209
   Cr
   1.1
   0.8
   0.8
   TCO2
   29
   28
   28
   27
   26
   Glucose
   147
   141
   137
   169
   158
   157
   152
   Other labs: PT / PTT / INR:16.3/30.1/1.5, Differential-Neuts:89.5 %,
   Lymph:5.3 %, Mono:5.1 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.5 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SUBARACHNOID HEMORRHAGE (SAH)
 TACHYCARDIA, OTHER
   AFIB/AFLUTTER
   ASSESSMENT AND PLAN:
   NEUROLOGIC: Follows commands, has bilateral ventriculostomy drains in
   place, Keppra for seizure prophylaxis, cont Nimodipine for protection
   against cerebral vasospasm, keep ICP<20.   Neurosurg to check R
   ventricular drain.
   Neuro checks Q: 1hr
   Pain: propofol for sedation, Fentanyl prn
   CARDIOVASCULAR:  Aflutter w/ variable block, with proper sedation/pain
   control higher tachy beats minimized, consider longer acting nodal
   [**Doctor Last Name 23**], BP stable, Nimodipine
   PULMONARY:  intubated, change to PSV
   GI / ABD:  no issues
   NUTRITION: start TF's
   RENAL: stable
   HEMATOLOGY: stable
   ENDOCRINE: RISS
   ID: Kefzol, has had low grade F w/ WBC staying in mid teens, consider
   pancx if persitant beyond expectations for post op.
   LINES/TUBES/DRAINS:  ETT, foley, arterial line, bilateral
   ventriculostomy drains, JP drain to craniectomy site, LIJ, OG
   WOUNDS: Head wound, dressing c/d/i
   IMAGING:
   FLUIDS:  NS 150cc/hr
   CONSULTS:  neurosurg
   BILLING DIAGNOSIS:  SAH
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - Boots
   STRESS ULCER - H2 Blocker
   VAP BUNDLE - covered
   COMMUNICATIONS:
   ICU Consent:  Will obtain
   CODE STATUS:  Full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2128-11-28**] 06:48 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2128-11-26**] 03:30 AM
   Multi Lumen - [**2128-11-26**] 08:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU    31 minutes

2128-11-29 08:56:00 Physician Resident Progress Note
Chief Complaint: Diffuse SAH, ?Ant comm aneurysm
   24 Hour Events:
 SPUTUM CULTURE - At [**2128-11-28**] 08:58 AM
 EEG - At [**2128-11-28**] 03:19 PM
 FEVER - 101.1
F - [**2128-11-28**] 09:00 PM
   CT head in am. Symmetric perfusion and blood flow. Probably slightly
   increased right frontal and left frontal edema, stable extent of
   parenchymal and intaventricular hemorrhage. Pt w/ increased ICP to
   25mmHg x 1 hr, started on pentobarb gtt, mannitol 25gm Q4, Hypertonic
   Na x1 dose.  TF goal increased to 100cc. Na increased to 155, UOP
   markedly increased ?DI. ICP remained 23.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2128-11-29**] 06:18 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Phenylephrine - 2.8 mcg/Kg/min
   Pentobarbital - 5 mg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-11-28**] 09:21 AM
   Fentanyl - [**2128-11-28**] 11:14 AM
   Vecuronium - [**2128-11-29**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: increasing ICP
   Pain: Unable to answer
   Flowsheet Data as of  [**2128-11-29**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 91 (69 - 162) bpm
   BP: 151/83(106) {137/57(85) - 208/94(133)} mmHg
   RR: 16 (13 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.4 kg (admission): 120 kg
    CVP: 5 (5 - 20)mmHg
   ICP: 22 (16 - 28) mmHg
   Total In:
                                                                  6,446 mL
                                                                  1,852 mL
   PO:
   TF:
                                                                  1,594 mL
                                                                    462 mL
   IVF:
                                                                  4,147 mL
                                                                  1,196 mL
   Blood products:
   Total out:
                                                                  4,317 mL
                                                                  3,990 mL
   Urine:
                                                                  3,950 mL
                                                                  3,810 mL
   NG:
   Stool:
   Drains:
                                                                    367 mL
                                                                    180 mL
   Balance:
                                                                  2,129 mL
                                                                 -2,138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 973 (973 - 973) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.44/39/147/26/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: sedated/paralyzed
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Not assessed, pupils nonreactive
   b/l ~ 1-2mm
   Labs / Radiology
   320 K/uL
   11.8 g/dL
   116 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   10 mg/dL
   122 mEq/L
   156 mEq/L
   32.9 %
   15.9 K/uL
        [image002.jpg]
                             [**2128-11-27**]  08:59 AM
                             [**2128-11-27**]  06:08 PM
                             [**2128-11-27**]  06:19 PM
                             [**2128-11-27**]  09:54 PM
                             [**2128-11-28**]  01:44 AM
                             [**2128-11-28**]  01:50 AM
                             [**2128-11-28**]  10:45 AM
                             [**2128-11-28**]  05:58 PM
                            [**2128-11-29**]  02:18 AM
                            [**2128-11-29**]  02:33 AM
   WBC
   17.3
   15.9
   Hct
   34.0
   32.9
   Plt
   209
   320
   Cr
   0.8
   0.8
   0.9
   TCO2
   28
   27
   26
   27
   27
   Glucose
   169
   158
   157
   152
   115
   116
   Other labs: PT / PTT / INR:13.7/28.2/1.2, Differential-Neuts:89.5 %,
   Lymph:5.3 %, Mono:5.1 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.9
   mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SUBARACHNOID HEMORRHAGE (SAH)
 TACHYCARDIA, OTHER
   AFIB/AFLUTTER
   ASSESSMENT AND PLAN:  28 yo M, SAH [**2-21**]/ ant comm aneurysm s/p coiling,
   c/b hematoma s/p craniectomy and hematoma evacuation, ventriculostomy
   and now increasing ICPs
   NEUROLOGIC: bilateral ventriculostomy drains in place, cont. Keppra,
   cont. Nimodipine for protection against cerebral vasospasm, cont.
   mannitol, pentobarb coma, monitor continuous EEG, paralyzed, con't incr
   ICPs though coming down
   Neuro checks Q: 1hr
   Pain: propofol for sedation, Fentanyl prn
   CARDIOVASCULAR:  now in Sinus, no issues, BP stable, Nimodipine,
   started on neo to keep CPP given increased ICPs
   PULMONARY:  intubated, vnet settings minimized and appropriate
   GI / ABD:  no issues
   NUTRITION: hold TF
   RENAL: showing signs of DI, high Na trending lytes and osms, given
   ddavp consider repeat dose
   HEMATOLOGY: stable
   ENDOCRINE: RISS
   ID: Cont cefzol for ventriculostomy drains, f/u cultures
   LINES/TUBES/DRAINS:  ETT, OG, foley, arterial line, bilateral
   ventriculostomy drains, Left subclavian
   WOUNDS: Head wound, dressing c/d/i
   IMAGING:
   FLUIDS:  NS, heplock, for total at ~ 150 /hr vol
   CONSULTS:  neurosurg
   BILLING DIAGNOSIS:  SAH
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - Boots
   STRESS ULCER - H2 Blocker
   VAP BUNDLE - covered
   COMMUNICATIONS:
   ICU Consent:  obtained
   CODE STATUS:  Full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2128-11-26**] 03:30 AM
   Multi Lumen - [**2128-11-26**] 08:53 AM
   18 Gauge - [**2128-11-28**] 09:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2128-12-01 08:32:00 Physician Resident Progress Note
Chief Complaint: Diffuse SAH, ?Ant comm aneurysm
   24 Hour Events:
   ICP 14's-16's. started on TPN. one port clotted but cleared, no tpa
   needed. Na remained elevated at 155 had high hourly uop, gave ddavp w/
   [**Month (only) 202**] uop  and Na minimally [**Month (only) 202**] to 155. Pt's sats [**Month (only) 202**] to 90's, repeat CXR
   w/ ? LLL atelectasis, pt does better lying on R. pO2 at 70, increased
   PEEP to 10 and FiO2 to 60 w/ minimum change, but sats inc to 98's
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2128-12-1**] 06:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Pentobarbital - 3 mg/Kg/hour
   Phenylephrine - 4.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-12-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: unresponsive
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-12-1**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 103 (88 - 104) bpm
   BP: 148/79(97) {95/63(81) - 157/95(116)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119.5 kg (admission): 120 kg
    CVP: 9 (9 - 11)mmHg
   ICP: 22 (4 - 29) mmHg
   Total In:
                                                                  5,439 mL
                                                                  1,864 mL
   PO:
   TF:
   IVF:
                                                                  5,069 mL
                                                                  1,664 mL
   Blood products:
   Total out:
                                                                  7,911 mL
                                                                  1,038 mL
   Urine:
                                                                  7,415 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
                                                                    496 mL
                                                                    168 mL
   Balance:
                                                                 -2,472 mL
                                                                    826 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 59.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/46/94.[**Numeric Identifier 433**]/29/4
   Ve: 8.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: intubated/sedated, critical pt
   Eyes / Conjunctiva: Pupils dilated, L>R, unresponsive in setting
   phenobarb coma
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Decreased
   Labs / Radiology
   374 K/uL
   12.6 g/dL
   155 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   10 mg/dL
   114 mEq/L
   154 mEq/L
   37.0 %
   14.7 K/uL
        [image002.jpg]
                            [**2128-11-30**]  11:11 AM
                            [**2128-11-30**]  02:55 PM
                            [**2128-11-30**]  03:54 PM
                            [**2128-11-30**]  04:25 PM
                            [**2128-11-30**]  07:44 PM
                            [**2128-11-30**]  09:30 PM
                            [**2128-12-1**]  02:28 AM
                            [**2128-12-1**]  02:42 AM
                            [**2128-12-1**]  05:52 AM
                            [**2128-12-1**]  06:00 AM
   WBC
   14.7
   Hct
   37.0
   Plt
   374
   Cr
   0.9
   1.0
   1.0
   1.0
   1.0
   TCO2
   28
   28
   29
   31
   32
   Glucose
   124
   170
   188
   127
   155
   Other labs: PT / PTT / INR:15.5/28.4/1.4, Differential-Neuts:89.5 %,
   Lymph:5.3 %, Mono:5.1 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SUBARACHNOID HEMORRHAGE (SAH)
 TACHYCARDIA, OTHER
   AFIB/AFLUTTER
   ASSESSMENT AND PLAN:  28 yo M, SAH [**2-21**]/ ant comm aneurysm s/p coiling,
   c/b hematoma s/p craniectomy and hematoma evacuation, ventriculostomy
   and now increasing ICPs
   NEUROLOGIC: bilateral ventriculostomy drains in place, cont. Keppra,
   cont. Nimodipine for protection against cerebral vasospasm, cont.
   mannitol, pentobarb coma, monitor continuous EEG, paralyzed, con't incr
   ICPs
   Neuro checks Q: 1hr
   Pain: pentobarb
   CARDIOVASCULAR: now in Sinus, no issues, BP stable on Neo . Nimodipine,
   started on neo to keep CPP given increased ICPs
   PULMONARY: intubated, vent settings with increased PEEP.   Increased
   secretions.   Send mini-BAL
   GI / ABD:  no issues
   NUTRITION: hold TF.  Begin TPN
   RENAL: showing signs of DI, high Na trending lytes and osms, given
   ddavp
   HEMATOLOGY: stable
   ENDOCRINE: RISS
   ID: Cont Kefzol for ventriculostomy drains, f/u cultures.  Mini-BAL
   today.
   LINES/TUBES/DRAINS:  ETT, OG, foley, arterial line, bilateral
   ventriculostomy drains, Left subclavian
   WOUNDS: Head wound, dressing c/d/i
   IMAGING:
   FLUIDS:  NS, heplock, for total at ~ 150 /hr vol
   CONSULTS:  neurosurg
   BILLING DIAGNOSIS:  SAH
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - Boots
   STRESS ULCER - H2 Blocker
   VAP BUNDLE - covered
   COMMUNICATIONS:
   ICU Consent:  obtained
   CODE STATUS:  Full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2128-11-26**] 03:30 AM
   Multi Lumen - [**2128-11-26**] 08:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2128-12-04 04:50:00 Physician Resident Progress Note
Chief Complaint: headache post coital
   24 Hour Events:
 FEVER - 101.9
F - [**2128-12-4**] 01:00 AM
   FiO2 weened down to 40%, maintained BP >180 [**First Name8 (NamePattern2) 24**] [**Doctor Last Name 363**] w/ neo.
   oxygenation poor overnight, had to inc fi02 to 60% again, and inc peep
   to 14, icp slowly inc to 14->16->18, and BP started drifting below 180,
   had to start levophed, and was maxed out on levophed/neo, gave fluid
   bolus and fentanyl. started breathing over vent and becoming
   tachycardic, likely waking from pentobarb. pain control and fluid
   helped, able to slowly ween down on pressors.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2128-12-1**] 02:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2128-12-1**] 07:00 PM
   Vancomycin - [**2128-12-3**] 07:35 PM
   Cefipime - [**2128-12-3**] 10:08 PM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-12-3**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Parenteral nutrition
   Respiratory: intermittant hypoxia
   Neurologic: inc ICPs, signs of waking from phenobarb but no response
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-12-4**] 04:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.1
C (100.5
   HR: 104 (74 - 106) bpm
   BP: 195/97(121) {146/60(85) - 195/100(124)} mmHg
   RR: 26 (22 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116 kg (admission): 120 kg
    CVP: 11 (7 - 12)mmHg
   ICP: 12 (6 - 19) mmHg
   Total In:
                                                                  5,604 mL
                                                                  2,415 mL
   PO:
   TF:
   IVF:
                                                                  3,059 mL
                                                                  1,921 mL
   Blood products:
   Total out:
                                                                  4,092 mL
                                                                    646 mL
   Urine:
                                                                  3,560 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
                                                                    532 mL
                                                                    121 mL
   Balance:
                                                                  1,512 mL
                                                                  1,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 59.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/42/66/23/0
   Ve: 14.7 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: remains critical on vent
   Eyes / Conjunctiva: 3 mm nonreactive b/l
   Head, Ears, Nose, Throat: Endotracheal tube at 28 cm, OG tube, ICP
   drains b/l
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: LLL)
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased, no sedation on, waking from barbituates
   Labs / Radiology
   391 K/uL
   11.9 g/dL
   171 mg/dL
   0.9 mg/dL
   23 mEq/L
   5.3 mEq/L
   28 mg/dL
   112 mEq/L
   145 mEq/L
   35.0 %
   14.6 K/uL
        [image002.jpg]
                            [**2128-12-2**]  12:20 PM
                            [**2128-12-2**]  04:34 PM
                            [**2128-12-2**]  10:04 PM
                            [**2128-12-3**]  02:02 AM
                            [**2128-12-3**]  02:11 AM
                            [**2128-12-3**]  11:50 AM
                            [**2128-12-3**]  05:49 PM
                            [**2128-12-3**]  05:55 PM
                            [**2128-12-4**]  12:54 AM
                            [**2128-12-4**]  12:58 AM
   WBC
   16.8
   14.6
   Hct
   32.3
   35.0
   Plt
   311
   391
   Cr
   0.8
   0.9
   0.8
   0.9
   TCO2
   30
   31
   30
   29
   28
   26
   Glucose
   130
   119
   122
   171
   Other labs: PT / PTT / INR:15.3/31.4/1.4, Differential-Neuts:89.0 %,
   Lymph:4.7 %, Mono:3.9 %, Eos:2.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SUBARACHNOID HEMORRHAGE (SAH)
 TACHYCARDIA, OTHER
   AFIB/AFLUTTER
   ASSESSMENT AND PLAN:  28 yo M, SAH [**2-21**] ant comm aneurysm s/p coiling,
   c/b hematoma s/p craniectomy and hematoma evacuation, ventriculostomy
   and now increasing ICPs
   NEUROLOGIC: bilateral ventriculostomy drains in place, ICP 12-18, cont.
   Keppra, cont. Nimodipine for protection against cerebral vasospasm,
   Angio on [**12-2**] revealed good brain perfusion. shows signs of waking
   from barb coma, breathing over vent, inc tachycardia, fluid bolus for
   BP <180 and fentanyl for pain control
   Neuro checks Q: 1hr
   Pain: fentanyl prn
   CARDIOVASCULAR: NSR HD stable, no issues, Nimodipine, started on
   neo/levophed to keep CPP 80, BP>180
   PULMONARY: intubated, hypoxic w/ need for inc fio2 and peep, will ween
   down as tolerated again today.  ETT pulled back.   CXR pending
   GI / ABD:  no issues
   NUTRITION: cont TPN.  Begin TF
   RENAL: intermittent signs of DI, high Na trending lytes and osms,
   redose ddavp as needed, has not had these issues in past 24h. Na
   improved, following q4h lytes
   HEMATOLOGY: stable
   ENDOCRINE: RISS
   ID: Afebrile, WBC 16.8 (15.8), cont vanco/cefepime, f/u cultures
   LINES/TUBES/DRAINS:  ETT, OG, foley, arterial line, bilateral
   ventriculostomy drains, Left subclavian
   WOUNDS: Head wound, dressing c/d/i
   IMAGING:
   FLUIDS: NS @100
   CONSULTS:  neurosurg
   BILLING DIAGNOSIS:  SAH
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - Boots
   STRESS ULCER - H2 Blocker
   VAP BUNDLE - covered
   COMMUNICATIONS:
   ICU Consent:  obtained
   CODE STATUS:  Full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2128-12-3**] 05:47 PM 87.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2128-11-26**] 03:30 AM
   Multi Lumen - [**2128-11-26**] 08:53 AM
   ICP Catheter - [**2128-11-26**] 08:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU